US08735362B2
Step A: ((R)-2-(thietan-3-yl)-3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester
A solution of triphenylphosphine (0.79 g) in THF (22 ml) was cooled under argon to −10° C. Diethylazodicarboxylate (DEAD, 1.57 g) was added dropwise then thietan-3-ol (0.4 g) and (3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester (0.27 g, prepared from (D)-cycloserine as described in Chem. Pharm. Bull. 2002, 50(4) 554-557). The reaction mixture was stirred at room temperature for 24 hours then the solvent was removed in vacuo. The crude product was purified by column chromatography (eluent cyclohexane/ethyl acetate) to afford the title product as a white solid (51 mg). 1H-NMR (CDCl3, 400 MHz): 5.45 (q, 1H), 5.05 (m, 1H), 4.90 (m, 1H), 4.50 (t, 1H), 4.10 (dd, 1H), 3.55 (m, 2H), 3.40 (m, 2H), 1.50 (s, 9H).

reactant | triphenylphosphine | 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 1.57 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | thietan-3-ol | 0.4 g | S1CC(C1)O | C3H6OS
reactant | (3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester | 0.27 g | C(C)(C)(C)OC(NC1C(NOC1)=O)=O | C8H14N2O4
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | ((R)-2-(thietan-3-yl)-3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester | 51 mg | C(C)(C)(C)OC(N[C@H]1C(N(OC1)C1CSC1)=O)=O | C11H18N2O4S
